US07381746B2
0.8 mL of a saturated aqueous solution of sodium hydrogen carbonate and 152 mg of di-t-butyldicarbonate were added to 160 mg of (1R,2R,3S,5R,6R)-2-amino-6-fluoro-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester dissolved in 0.8 mL of tetrahydrofuran, and the mixture was stirred for 4 hours, at room temperature. The reaction solution was extracted twice with ethyl acetate. The organic layers were combined, washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel: Wako gel C200 (made by Wako Pure Chemical Industries Ltd.), eluent: hexane-ethyl acetate=2:1), thereby yielding 214 mg of (1R,2R,3S,5R,6R)-2-t-butoxycarbonylamino-6-fluoro-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester.

reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | di-t-butyldicarbonate | 152 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (1R,2R,3S,5R,6R)-2-amino-6-fluoro-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 160 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@@H]1O)(C(=O)OCC)F)N | C12H18FNO5
solvent | tetrahydrofuran | 0.8 mL | O1CCCC1 | C4H8O
product | (1R,2R,3S,5R,6R)-2-t-butoxycarbonylamino-6-fluoro-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 214 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@@H]1O)(C(=O)OCC)F)NC(=O)OC(C)(C)C | C17H26FNO7
